US04585779
cis-1,2,3,4,4a,9b-Hexahydro-4a-phenyl-benzofuro[3,2-c]pyridine
To a solution of 3.56 L g of cis-2-ethoxycarbonyl-1,2,3,4,4a,9b-hexahydro-benzofuro[3,2-c]pyridine in 42 ml of absolute ethanol was added 28 ml of 20% aqueous NaOH solution. The resulting mixture was heated at reflux under nitrogen for 32 hours. Most of the ethanol was removed in vacuo. The residue was diluted with 50 ml of water and extracted with methylene chloride (2×100 ml). There were initially some problems with emulsions. The combined extracts were dried over anhydrous Na2SO4 and evaporated in vacuo to give 2.72 g (98.4%) of crystalline solid. Recrystallization from hexane afforded 1.98 g (71.6%) of crystals, m.p. s 91, 95°-98°.

reactant | cis-2-ethoxycarbonyl-1,2,3,4,4a,9b-hexahydro-benzofuro[3,2-c]pyridine | C(C)OC(=O)N1C[C@@H]2[C@H](CC1)OC1=C2C=CC=C1 | C14H17NO3
reactant | NaOH | 28 ml | [OH-].[Na+]
solvent | ethanol | 42 ml | C(C)O | C2H6O
product | cis-1,2,3,4,4a,9b-Hexahydro-4a-phenyl-benzofuro[3,2-c]pyridine | 2.72 g, 98.4% | C1(=CC=CC=C1)[C@@]12[C@@H](CNCC1)C1=C(O2)C=CC=C1 | C17H17NO
